US07812160B2
N-(4-{[5-(2-Amino-2-oxoethyl)-4-chloro-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide
To a solution of {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid (0.940 g, 1.98 mmol) in THF (18 mL) was added 1,1′-carbonyldiimidazole (0.353 mg, 2.18 mmol). The reaction mixture was stirred at room temperature for 2 hours followed by the addition of aqueous ammonia solution (28% NH3, 0.94 mL). After stirring for 16 hours at room temperature, the reaction mixture was partitioned between EtOAc and water and the separated organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo and the remaining residue was passed through a short pad of silica gel. Removal of acidic impurities via PS-carbonate resin then gave N-(4-{[5-(2-amino-2-oxoethyl)-4-chloro-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide as a white solid (0.670 g, 71%).

reactant | {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid | 1.98 mmol, 0.940 g | ClC1=NC(=NC(=C1CC(=O)O)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C26H23ClN4O3
reactant | 1,1′-carbonyldiimidazole | 2.18 mmol, 0.353 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 0.94 mL | N | H3N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | N-(4-{[5-(2-Amino-2-oxoethyl)-4-chloro-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide | NC(CC=1C(=NC(=NC1N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)Cl)=O | C26H24ClN5O2
